US05362744
(f) N'-[2.6-Bis(1-methylethyl)phenyl]-N-(2-dodecy-2H-tetrazol-5-yl)-N-phenyl-urea
To a stirred, cold (-78° C.) solution of 2-dodecyl-N-phenyl-2H-tetrazol-5-amine (2.2 g, 0.0067 mol) in anhydrous tetrahydrofuran (30 mL) under nitrogen atmosphere was added dropwise a 2.5 M solution of n-butyl lithium in hexanes (2.7 mL, 0.0068 mol), and the mixture was stirred for 25 minutes. To the mixture was added triphosgene (0.6385 g, 0.002152 mol) in one portion. The mixture was stirred for 1.5 hours and then allowed to warm to room temperature. The resulting orange solution was stirred for 3 days. To the mixture was added diisopropylethylamine (1.3 mL, 0.0069 mol) and 2,6-bis(1-methylethyl)aniline (1.3 mL, 0.0069 mol), and the mixture was refluxed for 3 days. The reaction mixture was allowed to cool and then rotoevaporated. The residue was partitioned between diethyl ether and saturated sodium bicarbonate. The organic layer was washed with additional saturated sodium bicarbonate, 1M hydrochloric acid, saturated sodium chloride, and was dried over magnesium sulfate. The organics were rotoevaporated to an oil. The oil was dissolved in PET ether and chromatographed on silica gel (360 g, 230-400 mesh) using PET ether-ethyl acetate (15:1, 3×300 mL; 11:1, 20×350 mL) as eluent. Fractions containing product were rotoevaporated from dichloromethane and dried in vacuo (50° C.), yield 2.798 g (78%) of the title compound. 1H NMR (CDCl3): δ 9.3 (s, 1H), 7.5 (m, 6H), 7.2 (d, 2H), 4.5 (t, 2H), 3.2 (septet, 2H), 1.9 (m, 2H), 1.2 (m, 18H), 0.9 (t, 3H).

reactant | 2-dodecyl-N-phenyl-2H-tetrazol-5-amine | 0.0067 mol, 2.2 g | C(CCCCCCCCCCC)N1N=C(N=N1)NC1=CC=CC=C1 | C19H31N5
reactant | n-butyl lithium | C(CCC)[Li]
reactant | triphosgene | 0.002152 mol, 0.6385 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | diisopropylethylamine | 0.0069 mol, 1.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2,6-bis(1-methylethyl)aniline | 0.0069 mol, 1.3 mL | CC(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | N'-[2.6-Bis(1-methylethyl)phenyl]-N-(2-dodecy-2H-tetrazol-5-yl)-N-phenyl-urea | CC(C)C1=C(C(=CC=C1)C(C)C)NC(N(C1=CC=CC=C1)C=1N=NN(N1)CCCCCCCCCCCC)=O | C32H48N6O
